data/polar.json
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[N:2]1([c:9]2[c:31]([CH3:11])[cH:25][c:17]([CH3:15])[cH:28][c:34]2[CH3:14])[CH:24]=[CH:23][N:3]([c:10]2[c:32]([CH3:12])[cH:26][c:18]([CH3:16])[cH:27][c:33]2[CH3:13])[C:37]1=[CH2:20].[n+:1]1([CH3:19])[c:4]2[cH:21][cH:35][cH:29][cH:6][c:38]2[cH:8][c:39]2[c:5]1[cH:22][cH:36][cH:30][cH:7]2>>[N:1]1([CH3:19])[c:4]2[cH:21][cH:35][cH:29][cH:6][c:38]2[CH:8]([CH2:20][c:37]2[n+:2](-[c:9]3[c:31]([CH3:11])[cH:25][c:17]([CH3:15])[cH:28][c:34]3[CH3:14])[cH:24][cH:23][n:3]2-[c:10]2[c:32]([CH3:12])[cH:26][c:18]([CH3:16])[cH:27][c:33]2[CH3:13])[c:39]2[c:5]1[cH:22][cH:36][cH:30][cH:7]2", "epd": [["LP-/Pi+", [2], [37, 2]], ["Pi-/Sigma+", [20, 37], [20, 8]], ["Pi-/Pi+", [8, 38], [38, 4]], ["Pi-/LP+", [4, 1], [1]]]}
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[O-:1][C:16](=[CH:2][c:10]1[cH:13][cH:4][cH:26][cH:5][cH:14]1)[O:25][CH2:27][CH3:12].[n+:3]1([CH3:15])[c:6]2[cH:17][cH:21][cH:19][cH:8][c:23]2[cH:11][c:24]2[c:7]1[cH:18][cH:22][cH:20][cH:9]2>>[O:1]=[C:16]([CH:2]([c:10]1[cH:13][cH:4][cH:26][cH:5][cH:14]1)[CH:11]1[c:23]2[c:6]([cH:17][cH:21][cH:19][cH:8]2)[N:3]([CH3:15])[c:7]2[cH:18][cH:22][cH:20][cH:9][c:24]21)[O:25][CH2:27][CH3:12]", "epd": [["LP-/Pi+", [1], [16, 1]], ["Pi-/Sigma+", [2, 16], [2, 11]], ["Pi-/Pi+", [11, 23], [23, 6]], ["Pi-/LP+", [6, 3], [3]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:2][O:5][c:7]1[cH:26][cH:12][c:11]([CH:20]=[C:19]2[CH:21]=[C:8]([Br:17])[C:10](=[O:16])[C:9]([Br:18])=[CH:22]2)[cH:13][cH:27]1.[S:1]([c:3]1[cH:24][cH:14][cH:6][cH:15][cH:25]1)([O-:4])=[O:23]>>[S+:1]([c:3]1[cH:24][cH:14][cH:6][cH:15][cH:25]1)([O-:4])([CH:20]([c:11]1[cH:12][cH:26][c:7]([O:5][CH3:2])[cH:27][cH:13]1)[c:19]1[cH:21][c:8]([Br:17])[c:10]([O-:16])[c:9]([Br:18])[cH:22]1)=[O:23]", "epd": [["LP-/Sigma+", [1], [1, 20]], ["Pi-/Pi+", [20, 19], [19, 21]], ["Pi-/Pi+", [21, 8], [8, 10]], ["Pi-/LP+", [10, 16], [16]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[O:3]=[S:15](=[O:4])([N:14]([S:12][C:8]([F:9])([F:10])[F:11])[S:16](=[O:5])(=[O:6])[c:29]1[cH:19][cH:25][cH:22][cH:26][cH:20]1)[c:28]1[cH:17][cH:23][cH:21][cH:24][cH:18]1.[cH:1]1[c:31]2[cH:30][cH:13][cH:2][cH:27][c:33]2[cH-:7][cH:32]1>>[CH:1]1=[CH:32][CH:7]([S:12][C:8]([F:9])([F:10])[F:11])[c:33]2[cH:27][cH:2][cH:13][cH:30][c:31]21.[O:3]=[S:15](=[O:4])([N-:14][S:16](=[O:5])(=[O:6])[c:29]1[cH:19][cH:25][cH:22][cH:26][cH:20]1)[c:28]1[cH:17][cH:23][cH:21][cH:24][cH:18]1", "epd": [["LP-/Sigma+", [7], [7, 12]], ["Sigma-/LP+", [12, 14], [14]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[O-:9][N+:18]([O-:10])=[C:16]1[CH:15]=[CH:23][CH:14]=[CH:17][C:22]1=[O:12].[O:1]=[S:5](=[O:2])([N:11]=[C:8]=[O:13])[c:20]1[cH:6][cH:3][c:19]([CH3:21])[cH:4][cH:7]1>>[O:1]=[S:5](=[O:2])([N-:11][C:8]([O:12][c:22]1[c:16]([N+:18](=[O:9])[O-:10])[cH:15][cH:23][cH:14][cH:17]1)=[O:13])[c:20]1[cH:6][cH:3][c:19]([CH3:21])[cH:4][cH:7]1", "epd": [["LP-/Pi+", [9], [18, 9]], ["Pi-/Pi+", [16, 18], [22, 16]], ["Pi-/Sigma+", [12, 22], [12, 8]], ["Pi-/LP+", [8, 11], [11]]]}
{"reaction_name": "Sulfenate–sulfoxide rearrangement", "rsmi": "[CH3:1][S:5][O:3][CH2:2][CH:6]=[CH2:4]>>[CH3:1][S:5]([CH2:2][CH:6]=[CH2:4])=[O:3]", "epd": [["LP-/Sigma+", [5], [2, 5]], ["Sigma-/LP+", [2, 3], [3]], ["LP-/Pi+", [3], [3, 5]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]([CH:10]1[N+:22](=[CH:4][CH:36]=[CH:11][c:30]2[cH:7][cH:25][cH:3][cH:26][cH:8]2)[CH:21]([CH2:37][c:34]2[cH:38][cH:17][cH:27][cH:18][cH:39]2)[C:29](=[O:9])[N:35]1[CH3:28])([CH3:31])([CH3:32])[CH3:33].[C:2]1(=[CH2:14])[N:23]([CH3:5])[c:20]2[cH:12][cH:15][cH:16][cH:13][c:19]2[N:24]1[CH3:6]>>[C:1]([CH:10]1[N:22]([CH:4]=[CH:36][CH:11]([CH2:14][c:2]2[n+:23]([CH3:5])[c:20]3[cH:12][cH:15][cH:16][cH:13][c:19]3[n:24]2[CH3:6])[c:30]2[cH:7][cH:25][cH:3][cH:26][cH:8]2)[CH:21]([CH2:37][c:34]2[cH:38][cH:17][cH:27][cH:18][cH:39]2)[C:29](=[O:9])[N:35]1[CH3:28])([CH3:31])([CH3:32])[CH3:33]", "epd": [["LP-/Pi+", [23], [2, 23]], ["Pi-/Sigma+", [14, 2], [14, 11]], ["Pi-/Pi+", [11, 36], [36, 4]], ["Pi-/LP+", [4, 22], [22]]]}
